US08455534B2
Step 2: (E)-Ethyl 3-(4-((E)-2-(2-(methylsulfonyl)phenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate
Potassium peroxymonosulfate (521 mg, 0.85 mmol) was added to a slurry of (E)-ethyl 3-(4-((E)-2-(2-(methylthio)phenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate (156 mg, 0.28 mmol) in MeOH:H2O (1:1, 6 mL) at room temperature, and the reaction was stirred overnight. DCM and water were added, and the layers were separated. The aqueous layer was washed with DCM (×2). The organic layers were combined, washed with water, washed with brine, dried over Na2SO4, filtered, and concentrated. The crude material was purified on a silica gel column eluted with 0-50% ethyl acetate in hexane affording the title compound. 1H NMR (DMSO-d6, 300 MHz): δ 8.15 (s, 1H), 7.91 (d, 1H), 7.77-7.71 (m, 2H), 7.49-7.46 (m, 3H), 7.41-7.31 (m, 4H), 7.01 (d, 2H), 6.45 (d, 1H), 5.87 (dd, 1H), 4.12 (q, 2H), 3.92-3.85 (m, 1H), 3.82-3.69 (m, 1H), 2.93 (s, 3H), 2.46-2.27 (m, 2H), 2.09-1.97 (m, 3H), 1.85-1.67 (m, 1H), 1.63-1.51 (m, 2H), 1.18 (t, 3H), 0.83 (t, 3H). LCMS: 501 [(M-THP+H)+H]+.

reactant | Potassium peroxymonosulfate | 0.85 mmol, 521 mg | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | (E)-ethyl 3-(4-((E)-2-(2-(methylthio)phenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate | 0.28 mmol, 156 mg | CSC1=C(C=CC=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=C1)/C=C/C(=O)OCC)/CC | C34H36N2O3S
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | MeOH H2O | 6 mL | CO.O
product | (E)-Ethyl 3-(4-((E)-2-(2-(methylsulfonyl)phenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate | CS(=O)(=O)C1=C(C=CC=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=C1)/C=C/C(=O)OCC)/CC | C34H36N2O5S
